* C:\Users\lagas\310TEAM11\Lanna\alternative_rx.asc
I1 N009 N007 PULSE(0 100n 1n 0 0 20u 0.1m)
D1 N007 N009 D
C1 N007 N009 4p
R1 N007 N009 10Meg
V1 N009 0 5V
R2 N007 0 100k
R3 N004 N003 90k
R4 N003 0 10k
C2 N006 N004 530n
R5 N006 2V5 1k
R6 N002 2V5 100
R7 Vsns2 N002 20k
V3 5V 0 5V
R8 5V N016 10Meg
R9 N016 0 10Meg
C3 N016 0 4p
C4 N014 N012 100n
R10 2V5 N014 50
R11 2V5 N012 10k
C5 2V5 0 1µ
XU4 0 N005 PWM 5V N008 Vt Vt 5V NE555
C6 N008 0 100n
D2 N005 5V BAT54
R12 5V N005 1k
C7 N005 Vtest 3n
R13 5V Vt 5k
C8 Vt 0 2.7n
R14 N011 N010 3.6k
R15 N013 N010 15k
R16 N010 PWM 3.6k
C9 N010 0 68n
R17 N015 0 3.6k
R18 N015 5V 3.6k
C10 5V 0 68n
C11 N011 N013 6.8n
C12 Vpulse 0 530n
R19 Vpulse N011 10k
C13 Vsns2 N002 3n
R20 N001 Vsns2 100
R21 Vtest N001 10k
XU1 N007 N003 5V 0 N004 TL082
XU2 N006 N002 5V 0 Vsns2 TL082
XU9 N016 N012 5V 0 N014 TL082
XU5 N015 N013 5V 0 N011 TL082
XU3 N001 2V5 5V 0 Vtest TL082
.model D D
.lib C:\Users\lagas\AppData\Local\LTspice\lib\cmp\standard.dio
* Load Resistor
.tran 0 10m 0 250n
* Model of Photodiode
* Reverse Bias
* High Pass Filter\n(WIP)
* We can offset by changing GND\nto 2.5V here
* Pulse Wave Generator\n(PWM)
* 2.5 Offset Generator
.lib TL082.301
.lib NE555.sub
.backanno
.end
